US08383657B2
4,5-dimethyl-3-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2(3H)-imine hydrochloride
The title compound was prepared from 4-trifluoromethylphenylaniline hydrochloride and 3-thiocyano-2-butanone as described for Example 160A.

reactant | 4-trifluoromethylphenylaniline hydrochloride | Cl.FC(C1=CC=C(C=C1)NC1=CC=CC=C1)(F)F
reactant | 3-thiocyano-2-butanone | S(C#N)C(C(C)=O)C | C5H7NOS
product | 4,5-dimethyl-3-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2(3H)-imine hydrochloride | Cl.CC=1N(C(SC1C)=N)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C12H11F3N2S.ClH/c1-7-8(2)18-11(16)17(7)10-5-3-9(4-6-10)12(13,14)15;/h3-6,16H,1-2H3;1H
